US05364866
A mixture of 1-(3-aminopropyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (3.01 g, 10.8 moles) and cis-1,2-cyclohexane-dicarboxylic anhydride (1.9 g, 12.3 mmoles) in dry pyridine (30 ml) was heated at reflux for 16 hours. The dark brown solution was concentrated to dryness on a rotary evaporator. The crude residue was purified twice by flash chromatography over a silica gel column. The pure product thus obtained weighed 2.5 g (67%). This was converted to the hydrochloride salt by treatment with HCl in ethanol (50 ml). The cis-2-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propyl]-hexahydro-1H-isoindole-1,3-dione hydrochloride crystals so obtained weighed 3.0 g, m.p.=242°-245° C.

reactant | 1-(3-aminopropyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 10.8 moles, 3.01 g | NCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C15H20FN3O
reactant | cis-1,2-cyclohexane-dicarboxylic anhydride | 12.3 mmoles, 1.9 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | HCl | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | cis-2-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propyl]-hexahydro-1H-isoindole-1,3-dione hydrochloride | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCN2C([C@H]3CCCC[C@H]3C2=O)=O)C=C1 | InChI=1S/C23H28FN3O3.ClH/c24-16-6-7-19-20(14-16)30-25-21(19)15-8-12-26(13-9-15)10-3-11-27-22(28)17-4-1-2-5-18(17)23(27)29;/h6-7,14-15,17-18H,1-5,8-13H2;1H/t17-,18+;
